US05085686
a) 2-Methoxy-6-(pyrazol-1-yl)-benzonitrile:
A solution of 0.273 mol of sodium pyrazolide (prepared from equimolar amounts of pyrazole and sodium hydride) in 140 ml of N,N-dimethylethyleneurea is added dropwise at 50° C., under nitrogen, to a solution of 41.2 g (0.273 mol) of 2-methoxy-6-fluorobenzonitrile (preparation: J. Heterocycl. Chem. 25 (1988), 1173) in 50 ml N,N-dimethylethyleneurea and the mixture is stirred at 60° C. for 2h. After the mixture has been cooled and stirred into 4 l of ice water and the precipitated crystals have been filtered off under suction and dried, 37.1 g of the product of melting point 93°-94° C. are obtained.

reactant | sodium pyrazolide | 0.273 mol | [N-]1N=CC=C1.[Na+]
reactant | 2-methoxy-6-fluorobenzonitrile | 0.273 mol, 41.2 g | COC1=C(C#N)C(=CC=C1)F | C8H6FNO
solvent | N,N-dimethylethyleneurea | 140 ml | CN(C)C(=O)N1CC1 | C5H10N2O
solvent | N,N-dimethylethyleneurea | 50 ml | CN(C)C(=O)N1CC1 | C5H10N2O
product | 2-Methoxy-6-(pyrazol-1-yl)-benzonitrile | 37.1 g | COC1=C(C#N)C(=CC=C1)N1N=CC=C1 | C11H9N3O
